US08877744B2
A dried pressure tube was charged with 4-bromo-1H-imidazole (100 mg, 667 μmol), tetrahydrofuran (3 ml), N,N-dimethylformamide (2 ml), 2-(methylsulfonyl)-5-(trifluoromethyl)pyridine (150 mg, 667 μmol), and cesium carbonate (261 mg, 800 μmol). The tube was sealed and heated at 105° C. for 16 hours. For the workup, the reaction mixture was evaporated at reduced pressure and the residue directly purified by chromatography on silica gel using a gradient of heptane/ethyl acetate=100:0 to 60:30 as the eluent. The 2-(4-bromo-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine (167 mg, 86% yield) was obtained as a crystalline white solid. MS (ISP): m/z=292.0 [M+H]+ and 294.2 [M+2+H]+.

reactant | 4-bromo-1H-imidazole | 667 μmol, 100 mg | BrC=1N=CNC1 | C3H3BrN2
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | 2-(methylsulfonyl)-5-(trifluoromethyl)pyridine | 667 μmol, 150 mg | CS(=O)(=O)C1=NC=C(C=C1)C(F)(F)F | C7H6F3NO2S
reactant | cesium carbonate | 800 μmol, 261 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromo-1H-imidazol-1-yl)-5-(trifluoromethyl)pyridine | 167 mg, 86% yield | BrC=1N=CN(C1)C1=NC=C(C=C1)C(F)(F)F | C9H5BrF3N3
